* Frozen netlist snapshot for record 20260731-191150-5f5288b
* source     : sim/device-cdac-cap/testbench/tb_cdac_cap.spice
* sha256     : 7b7f11da23c7ab7276ea6e94b9ed75070c7a61808f4456ed900c1ad02fb51460
* This is a verbatim copy taken at record time. Do not edit.
* tb_cdac_cap -- CDAC unit-capacitor characterization
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the .control block and .end, plus the PDK-variant-bound
* `mim_cap_<density>` aliases (see sim/harness/runner.py: the PDK names its
* MIM subckts after the metal pair the capacitor sits between, which is a
* variant property, so no testbench in this repo hardcodes a metal stack).
*
* Each capacitor is probed with a 1 A AC current source; the harness's
* measure block converts the resulting node voltage magnitude at 1 MHz into
* an effective capacitance, C = 1 / (2*pi*f*|V|). The 1 MHz probe frequency
* is written literally in both the manifest's `analyses` and its `measure`
* expressions: `.param` values live in netlist scope and are NOT visible to
* ngspice's .control block, so a shared symbol is not available here.
*
* Why this exists: the MOS corners (tt/ff/ss/fs/sf) leave BOTH capacitor
* families at typical, so nothing in a MOS-only sweep would ever notice a
* broken mimcap/moscap .lib include. A 10-bit CDAC's linearity rides on the
* unit cap, so the cap sections must be demonstrably live.
*
* NOTE on MoM: the open gf180mcu PDK ships no MoM / lateral-flux capacitor
* model, so there is no MoM section to sweep here. See sim/harness/README.md.
*
* ===========================================================================
* 2026-07-31 revision (#4). TWO changes, both of which move numbers:
*
* (a) BUG FIX -- every AC-probe node now has an explicit DC return path.
*     The previous revision probed capacitors that had no DC path to ground
*     at all (an ideal AC current source is an open circuit at DC), so
*     ngspice hit `singular matrix: check node nmim1`, failed dynamic gmin
*     stepping, true gmin stepping AND source stepping, and silently fell
*     back to a transient operating point. The transient op does not run long
*     enough to charge a 1 G / 400 fF bias node, so the MOS-cap branch was
*     measured at a partially-charged bias rather than at vdd: record
*     20260731-155428-860c970 reports cmos_ff = 224.556 fF at 3.3 V where the
*     model's own C(V) expression gives 398.3 fF. The MiM branches were much
*     less affected (their C is bias-independent, see (b)), but they were the
*     nodes that broke convergence for the whole deck. Every probe node below
*     now returns to its DC reference through a 1 T resistor -- large enough
*     that the 1 MHz shunt error is < 0.02 % for every capacitor here except
*     the 2.45 fF MOS cap at 0 V bias (~0.2 %, and used only as the
*     denominator of a ~3e7 ppm/V ratio).
*
* (b) EXTENSION -- branches 4-9 are new and answer the CDAC-cap
*     characterization questions #8 and #14 need:
*       4. area sweep of the MiM unit cap -> effective density (fF/um^2) vs
*          unit size, i.e. how much of a small unit cap is perimeter fringe.
*       5. DC-bias sweep of the MiM unit cap -> voltage coefficient. The
*          gf180mcu MIM model card carries c_vcr1/c_vcr2 but the ngspice deck
*          has the bias-dependent `c_cap` line COMMENTED OUT and instantiates
*          a fixed `.MODEL C cap=c_c0` instead (sm141064_mim.ngspice). This
*          branch measures what the simulator actually does, which is what a
*          simulated CDAC result rests on.
*       6. DC-bias sweep of the 3.3 V MOS cap -> the contrast case. Its model
*          IS bias-dependent (a tanh in C(V)), which is why a MOS cap is a
*          poor CDAC unit element.
*       7. the third MiM flavor, 1.5 fF/um^2, so all three the PDK ships are
*          characterized rather than two of three.
*       8. TEMPERATURE COEFFICIENT of all three MiM flavors, extracted WITHIN
*          one PVT point via per-instance dtemp (see below).
*       9. MOS-cap temperature null control.
*
* WHY TEMPCO NEEDS dtemp. `.temp` is global to a deck, so the temperature
* axis of the PVT grid puts each temperature in a DIFFERENT record row: a
* tempco read off that axis is arithmetic performed on the record table by a
* reader, not a measured quantity with a check on it. Branches 8-9 instead
* pin three instances of the same device to absolute -40 / 27 / 125 C inside
* every deck, using dtemp = <target> - temp_c, and the manifest turns the
* three into one ppm/K number that is bounded by a check at every one of the
* 63 PVT points. (The PDK subckts have always accepted dtemp; the harness's
* mim_cap_* wrapper now forwards it -- see sim/harness/runner.py.) The
* grid's own temperature axis remains as the independent cross-check: it
* must agree with the dtemp result, and it does.
*
* Measurement names from the previous revision are all retained so the two
* records can be compared column by column; the new record supersedes
* 20260731-155428-860c970 for the cmos_ff claim.

vsup vdd 0 dc {vdd_val}

* ===========================================================================
* 1. MiM unit cap, 2.0 fF/um^2 flavor, 10 um x 10 um.
*    Bottom plate grounded; AC current probe on the top plate; DC return to
*    ground so the operating point is defined.
Rdc_mim2 nmim2 0 1t
iac_mim2 nmim2 0 ac 1
Xcmim2 nmim2 0 mim_cap_2f0 c_width=10u c_length=10u

* 2. MiM unit cap, 1.0 fF/um^2 flavor, same geometry, for density ratio
Rdc_mim1 nmim1 0 1t
iac_mim1 nmim1 0 ac 1
Xcmim1 nmim1 0 mim_cap_1f0 c_width=10u c_length=10u

* 3. 3.3 V NMOS capacitor biased to vdd (accumulation): the alternative
*    unit-cap device, and the one with a real voltage coefficient. This is
*    the branch whose bias the old deck failed to establish.
Rbias vdd nmos 1t
iac_mos nmos 0 ac 1
Xcmos nmos 0 cap_nmos_03v3 c_width=10u c_length=10u

* ===========================================================================
* 4. MiM 2.0 fF/um^2 area sweep -- unit-cap density vs unit size.
*    C(W,L) = c_cox*W*L + c_capsw*2*(W+L), so the effective density RISES as
*    the unit shrinks (perimeter fringe is a bigger fraction of a small
*    plate). #8 picks a unit-cap size; this is the density it gets.
Rdc_a2 na2 0 1t
iac_a2 na2 0 ac 1
Xca2 na2 0 mim_cap_2f0 c_width=2u c_length=2u

Rdc_a5 na5 0 1t
iac_a5 na5 0 ac 1
Xca5 na5 0 mim_cap_2f0 c_width=5u c_length=5u

Rdc_a20 na20 0 1t
iac_a20 na20 0 ac 1
Xca20 na20 0 mim_cap_2f0 c_width=20u c_length=20u

* ===========================================================================
* 5. MiM 2.0 fF/um^2 voltage coefficient. Same 10x10 geometry as branch 1,
*    held at a FIXED DC bias (not vdd_val) so the number is a device property
*    rather than a supply artefact. Bias points span the 0-3.3 V input range;
*    the 0 V point is branch 1.
vb_mim165 nb_mim165 0 dc 1.65
Rb_mim165 nb_mim165 nmimv165 1t
iac_mimv165 nmimv165 0 ac 1
Xcmimv165 nmimv165 0 mim_cap_2f0 c_width=10u c_length=10u

vb_mim330 nb_mim330 0 dc 3.3
Rb_mim330 nb_mim330 nmimv330 1t
iac_mimv330 nmimv330 0 ac 1
Xcmimv330 nmimv330 0 mim_cap_2f0 c_width=10u c_length=10u

* ===========================================================================
* 6. 3.3 V NMOS cap voltage coefficient, at the same fixed bias points, for
*    the MiM-vs-MOS contrast. The 0 V point needs no source -- the probe node
*    returns straight to ground.
Rb_mos000 0 nmosv000 1t
iac_mosv000 nmosv000 0 ac 1
Xcmosv000 nmosv000 0 cap_nmos_03v3 c_width=10u c_length=10u

vb_mos330 nb_mos330 0 dc 3.3
Rb_mos330 nb_mos330 nmosv330 1t
iac_mosv330 nmosv330 0 ac 1
Xcmosv330 nmosv330 0 cap_nmos_03v3 c_width=10u c_length=10u

* ===========================================================================
* 7. The third MiM flavor the PDK ships, 1.5 fF/um^2, same 10x10 geometry.
*    Its c_tc1 is 2.8x that of the other two, so which flavor #8 picks is a
*    tempco decision as well as a density decision.
Rdc_mim15 nmim15 0 1t
iac_mim15 nmim15 0 ac 1
Xcmim15 nmim15 0 mim_cap_1f5 c_width=10u c_length=10u

* ===========================================================================
* 8. TEMPERATURE COEFFICIENT, all three MiM flavors. Three instances of each
*    flavor, pinned to absolute -40 / 27 / 125 C by a per-instance dtemp
*    offset from this PVT point's own .temp. Every deck therefore contains a
*    complete tempco measurement, so the manifest can bound it with a check
*    at all 63 PVT points instead of leaving a reader to difference three
*    rows of the record table by hand.
*
*    The tempco lives in the `.MODEL C` card (tc1/tc2), which IS applied --
*    unlike the voltage coefficient in branch 5, which is not.
Rt2m40 nt2m40 0 1t
iac_t2m40 nt2m40 0 ac 1
Xct2m40 nt2m40 0 mim_cap_2f0 c_width=10u c_length=10u dtemp={-40-temp_c}

Rt2p27 nt2p27 0 1t
iac_t2p27 nt2p27 0 ac 1
Xct2p27 nt2p27 0 mim_cap_2f0 c_width=10u c_length=10u dtemp={27-temp_c}

Rt2p125 nt2p125 0 1t
iac_t2p125 nt2p125 0 ac 1
Xct2p125 nt2p125 0 mim_cap_2f0 c_width=10u c_length=10u dtemp={125-temp_c}

Rt1m40 nt1m40 0 1t
iac_t1m40 nt1m40 0 ac 1
Xct1m40 nt1m40 0 mim_cap_1f0 c_width=10u c_length=10u dtemp={-40-temp_c}

Rt1p27 nt1p27 0 1t
iac_t1p27 nt1p27 0 ac 1
Xct1p27 nt1p27 0 mim_cap_1f0 c_width=10u c_length=10u dtemp={27-temp_c}

Rt1p125 nt1p125 0 1t
iac_t1p125 nt1p125 0 ac 1
Xct1p125 nt1p125 0 mim_cap_1f0 c_width=10u c_length=10u dtemp={125-temp_c}

Rt15m40 nt15m40 0 1t
iac_t15m40 nt15m40 0 ac 1
Xct15m40 nt15m40 0 mim_cap_1f5 c_width=10u c_length=10u dtemp={-40-temp_c}

Rt15p27 nt15p27 0 1t
iac_t15p27 nt15p27 0 ac 1
Xct15p27 nt15p27 0 mim_cap_1f5 c_width=10u c_length=10u dtemp={27-temp_c}

Rt15p125 nt15p125 0 1t
iac_t15p125 nt15p125 0 ac 1
Xct15p125 nt15p125 0 mim_cap_1f5 c_width=10u c_length=10u dtemp={125-temp_c}

* ===========================================================================
* 9. MOS-cap temperature NULL CONTROL. cap_nmos_03v3 accepts dtemp and passes
*    it to its behavioural capacitor, but that capacitor's C(V) expression
*    contains no temperature term at all -- so this branch must read the SAME
*    capacitance at -40 C and 125 C. The manifest asserts that as a check, so
*    the statement "the gf180mcu MOS cap has no modelled tempco" is proven
*    here rather than inferred from a flat column.
Rtmm40 ntmm40 vdd 1t
iac_tmm40 ntmm40 0 ac 1
Xctmm40 ntmm40 0 cap_nmos_03v3 c_width=10u c_length=10u dtemp={-40-temp_c}

Rtmp125 ntmp125 vdd 1t
iac_tmp125 ntmp125 0 ac 1
Xctmp125 ntmp125 0 cap_nmos_03v3 c_width=10u c_length=10u dtemp={125-temp_c}
