* Frozen netlist snapshot for record 20260731-191945-5f5288b
* source     : sim/device-comparator-flicker-noise/testbench/tb_flicker.spice
* sha256     : 428b8e05b04f6371752e150fcaf414dd22e553d0af00af7f98a9d0ebea46910c
* This is a verbatim copy taken at record time. Do not edit.
* tb_flicker -- input-referred noise and flicker corner, 3.3 V comparator devices
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the .control block and .end. Parameters provided by the
* harness: vdd_val, vdd_nom, temp_c.
*
* Question this answers (feeds #9): what is the input-referred noise spectral
* density of a 3.3 V input device at a realistic comparator bias, where is
* its flicker corner, and how much does the PDK's worst-case flicker option
* move it? A SAR comparator's offset-and-noise budget is built on exactly
* these numbers.
*
* METHOD. Each device is diode-connected at a fixed drain current from an
* ideal (noiseless) source, with a 0 V AC source in series with the gate as
* the noise-analysis input. During the noise analysis independent sources are
* zeroed, so the AC source becomes a short and the device really is
* diode-connected: the node impedance is 1/(gm+gds) and ngspice's
* inoise_spectrum is therefore the INPUT-REFERRED GATE-VOLTAGE noise density
* in V/sqrt(Hz) -- the quantity #9 needs, with no post-processing.
*
* (Units were confirmed against an ideal 1 kOhm resistor, which ngspice
* reports as 4.069 nV/sqrt(Hz) against the 4kTR value of 4.07 nV/sqrt(Hz).)
*
* THREE DEVICES, chosen so that two device properties are measured rather
* than assumed:
*   N pair   nfet_03v3 40/0.5 at 10 uA  -- the comparator input candidate
*   P pair   pfet_03v3 40/0.5 at 10 uA  -- the PMOS-input alternative
*   N big    nfet_03v3 40/2.0 at 10 uA  -- 4x the gate area of "N pair" at
*                                          identical current, so the 1/(W*L)
*                                          area scaling of flicker noise is
*                                          a measured ratio, not a citation.
*
* WORST-CASE FLICKER. gf180mcu ships a flicker-noise corner switch, `fnoicor`
* (design.ngspice): 0 = as-extracted (the default), 1 = worst case. It is a
* multiplier on the BSIM noia term -- 3.5e42 vs 3.2e41 for nfet_03v3 and
* 4.0e42 vs 3.2e41 for pfet_03v3, i.e. 10.9x and 12.5x in noise POWER. The
* manifest runs the whole sweep twice, flipping the switch with `alterparam`
* + `reset` between the two halves, so the worst-case flicker corner is
* measured at every PVT point rather than derived from the model card by
* hand. Nothing in this repo should quote a flicker number without saying
* which fnoicor setting it came from.

vsup vdd 0 dc {vdd_val}

* --- N pair candidate: nfet_03v3 W = 40 um, L = 0.5 um at 10 uA ------------
ibn vdd nnd dc 10u
vgn nng nnd dc 0 ac 1
XNP nnd nng 0 0 nfet_03v3 w=40u l=0.5u

* --- P pair candidate: pfet_03v3 W = 40 um, L = 0.5 um at 10 uA ------------
ibp npd 0 dc 10u
vgp npg npd dc 0 ac 1
XPP npd npg vdd vdd pfet_03v3 w=40u l=0.5u

* --- N large-area control: 4x the gate area at the same current ------------
ibb vdd nbd dc 10u
vgb nbg nbd dc 0 ac 1
XNB nbd nbg 0 0 nfet_03v3 w=40u l=2u
